US06350749B1
In water (500 ml) was dissolved sodium hydroxide (4.0 g), and to the mixture was added acetone (100 ml), and then 2,5-dichlorobenzaldehyde (15.9 g). The mixture was stirred at room temperature for 1 hour, and acetone was evaporated under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and concentrated under reduced pressure to give 4-(2,5-dichlorophenyl)-3-buten-2-one (19.0 g).

reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | 2,5-dichlorobenzaldehyde | 15.9 g | ClC1=C(C=O)C=C(C=C1)Cl | C7H4Cl2O
solvent | water | 500 ml | O | H2O
product | 4-(2,5-dichlorophenyl)-3-buten-2-one | 19.0 g | ClC1=C(C=C(C=C1)Cl)C=CC(C)=O | C10H8Cl2O
